US07534805B2
1.2) 2-bromo-1-[4-(4-fluorophenoxy)phenyl]ethanone
A solution of 1-[4-(4-fluorophenoxy)phenyl]ethanone (17.7 g, 0.077 mol) in 220 ml of ethanol is cooled down to approximately 0° C. Bromine (4.8 ml, 0.096 mol) is added dropwise with a syringe. The temperature is allowed to return to ambient temperature, followed by stirring for 2 hours. After evaporation of the solvent then stirring for 10 hours in isopentane, the residue is filtered on frit and dried under a vacuum chamber bell jar. A beige-coloured powder is obtained.

reactant | 1-[4-(4-fluorophenoxy)phenyl]ethanone | 0.077 mol, 17.7 g | FC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C14H11FO2
reactant | Bromine | 0.096 mol, 4.8 ml | BrBr | Br2
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | 2-bromo-1-[4-(4-fluorophenoxy)phenyl]ethanone | BrCC(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C14H10BrFO2
